US07838675B2
i) 4-Chloro-2-[(2,3-difluorobenzyl)thio]-6-isopropoxypyrimidine
To a solution of 4,6-dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine ((the product of example 1 step ii), 3 g) in propan-2-ol (20 ml) was added NaH (0.43 g) slowly and the reaction was then allowed to stir overnight at RT. The reaction mixture was then partitioned between DCM (100 ml) and H2O (100 ml). The organics were separated and the aqueous layer was re-extracted with DCM (2×100 ml). Organics were combined, dried (MgSO4) and reduced in vacuo to give the subtitle compound as a pale yellow solid. Yield: 1.8 g

reactant | 4,6-dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine | ClC1=NC(=NC(=C1)Cl)SCC1=C(C(=CC=C1)F)F | C11H6Cl2F2N2S
reactant | NaH | 0.43 g | [H-].[Na+]
reactant | propan-2-ol | 20 ml | CC(C)O | C3H8O
product | 4-Chloro-2-[(2,3-difluorobenzyl)thio]-6-isopropoxypyrimidine | ClC1=NC(=NC(=C1)OC(C)C)SCC1=C(C(=CC=C1)F)F | C14H13ClF2N2OS
